US06498182B2
Preparation of 4-(acetyloxy)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-benzo[g]indol-5-yl Acetate (compound 25)
To a solution of 4-hydroxy-3,3-dimethyl-2H-benzo[g]indole-2,5(3H)-dione (0.030 g, 0.124 mmol) in i-PrOH (0.5 mL) was added NaBH4 (0.020 g, 0.52 mmol) while stirring at RT. After 5 minutes, Ac2O (100 μL, 0.1 g, 0,98 mmol) was added via a syringe and the mixture was allowed to stir for 1 h followed by addition of more NaBH4 (0.020 g, 0.52 mmol) and stirring over night. The solvent was removed in vacuum and the solid was dissolved in CHCl3, filtered and purified by prep. HPLC (RP). Yield: 0.016 mg (40%). 1H NMR (400 MHz, CDCl3) δ 1.50 (brs, 6 H), 2.35 (appd, 6 H), 7.47 (m, 2 H), 7.68 (d, 1 H), 7.85 (d, 1 H), 10.05 (brs, 1 H). MS (CI) m/z: 328.36 (M+1).

reactant | 4-hydroxy-3,3-dimethyl-2H-benzo[g]indole-2,5(3H)-dione | 0.124 mmol, 0.030 g | OC1=C2C(C(N=C2C2=C(C1=O)C=CC=C2)=O)(C)C | C14H11NO3
reactant | NaBH4 | 0.52 mmol, 0.020 g | [BH4-].[Na+]
reactant | Ac2O | 0,98 mmol, 100 μL, 0.1 g | CC(=O)OC(=O)C | C4H6O3
reactant | NaBH4 | 0.52 mmol, 0.020 g | [BH4-].[Na+]
reactant | i-PrOH | 0.5 mL | CC(C)O | C3H8O
product | 4-(acetyloxy)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-benzo[g]indol-5-yl Acetate | C(C)(=O)OC=1C(=C2C(C(NC2=C2C1C=CC=C2)=O)(C)C)OC(C)=O | C18H17NO5
